US04507297
Under cooling with ice, an ethyl acetate solution (40 ml) of N,N'-dicyclohexylcarbodiimide (10.3 g) was added dropwise to an ethyl acetate solution (150 ml) containing tert-butoxycarbonyl-L-leucine monohydrate (12.5 g) and N-hydroxy succinimide (5.76 g), and the mixture was stirred at room temperature for 3 hours. While cooling again with ice, 1-(2-pyridyl)piperazine (8.16 g) was added, and the mixture was stirred overnight at room temperature. The precipitate was removed by filtration, and the filtrate was washed first with an aqueous sodium carbonate solution and then with a saturated sodium chloride solution, dried over sodium sulfate and distilled under reduced pressure to remove the solvent, whereupon a crude reaction mixture was obtained. The reaction mixture was purified by silica gel column chromatography (developing solvent: methylene chloride:methanol=10:1) to yield 16.1 g of tert-butyl (s)-3-methyl-1-[4-(2-pyridyl)piperazine-1-yl carbonyl]butylcarbamate (yield: 85.6%).

reactant | N,N'-dicyclohexylcarbodiimide | 10.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tert-butoxycarbonyl-L-leucine monohydrate | 12.5 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | N-hydroxy succinimide | 5.76 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-(2-pyridyl)piperazine | 8.16 g | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl (s)-3-methyl-1-[4-(2-pyridyl)piperazine-1-yl carbonyl]butylcarbamate | 16.1 g, yield: 85.6% | CC(C[C@@H](C(=O)N1CCN(CC1)C1=NC=CC=C1)NC(OC(C)(C)C)=O)C | C20H32N4O3
